US06242493B1
Step 3: 2-Thiophenesulfonyl isocyanate
A mixture of 2-thiophenesulfonylamide (1.5 g) and oxalyl chloride (6 mL) in 10 mL of 1,2-dichloroethane was refluxed for 14 h. The solvent was removed under vacuum and the crude used as is for the next step.

reactant | 2-thiophenesulfonylamide | 1.5 g | S1C(=CC=C1)S(=O)(=O)[NH-]
reactant | oxalyl chloride | 6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 2-Thiophenesulfonyl isocyanate | S1C(=CC=C1)S(=O)(=O)N=C=O | C5H3NO3S2
